US05304650
It has already been disclosed that alkyl N-(hydroxy-alkyl)-carbamates can be obtained by reacting amino alcohols with chloroformates. This reaction is customarily carried out in an inert organic solvent in the presence of an acid acceptor at temperatures from -20° C. to +20° C. Examples which may be mentioned are the reaction of 2-methylamino-ethanol with benzyl chloroformate and triethylamine in chloroform at 20° C. (DE-A 3,239,390), of 2-(2-hydroxyethyl)-piperidine with butyl chloroformate and triethylamine in tetrahydrofuran at -20° C. (EP-A 289,842) and the reaction of 2,2-diethyl-3-hydroxypropylamine with ethyl chloroformate and triethylamine in benzene, with cooling, followed by refluxing for 2.5 hours (German Patent Specification 1,150,973). It is also known that 2-(2-hydroxyethyl)-piperidine can be reacted with methyl chloroformate at 0° to 20° C. in the presence of an aqueous sodium hydrogen carbonate solution to give methyl 2-(2-hydroxyethyl)-piperidinyl-carbamate (J. Chem. Soc. Perkin Trans. I 1988, 2251 to 2253). It is furthermore known that 2-aminoethanol can be reacted with benzyl chloroformate at 0° C. using 4N sodium hydroxide solution as acid acceptor to give benzyl N-(2-hydroxy-ethyl)-carbamate [J. Am. Chem. Soc. 69, 1384 (1947)].

reactant | 2-methylamino-ethanol | CNCCO | C3H9NO
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 2-(2-hydroxyethyl)-piperidine | OCCC1NCCCC1 | C7H15NO
reactant | butyl chloroformate | ClC(=O)OCCCC | C5H9ClO2
reactant | 2,2-diethyl-3-hydroxypropylamine | C(C)C(CN)(CO)CC | C7H17NO
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | methyl 2-(2-hydroxyethyl)-piperidinyl-carbamate | OCCC1N(CCCC1)NC(OC)=O | C9H18N2O3
